US09371318B2
Step 9: -(2-Hydroxyethoxy)-3-methylbenzaldehyde
To a stirred solution of 4-hydroxy-3-methyl-benzaldehyde (0.545 g, 4.00 mmol) in DMF (10 mL) was added potassium carbonate (1.10 g, 7.97 mmol). The reaction mixture was stirred at RT for 5 minutes and then a solution of ethylene carbonate (0.705 g, 8.00 mmol) in DMF (2 mL) was added. The resultant mixture was heated at 80° C. for 90 hours. The reaction mixture was allowed to cool and diluted with ethyl acetate and water. The organic phase was removed, washed with brine (×2), dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure to afford the title compound (0.677 g, 94%).

reactant | 4-hydroxy-3-methyl-benzaldehyde | 4.00 mmol, 0.545 g | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | potassium carbonate | 7.97 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene carbonate | 8.00 mmol, 0.705 g | C1(OCCO1)=O | C3H4O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2-Hydroxyethoxy)-3-methylbenzaldehyde | 0.677 g, 94% | OCCOC1=C(C=O)C=CC=C1C | C10H12O3
